US05364871
Methanesulfonyl chloride (0.58 ml) was added a mixture of 4-(6-aminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole (1.8 g) and pyridine (0.81 ml) in dichloromethane (40 ml) under ice-cooling and the mixture was stirred for 23 hours at ambient temperature. The reaction mixture was added a mixture of tetrahydrofuran, ethyl acetate and water and the mixture was adjusted to pH 9.5 with 20% aqueous potassium carbonate. The separated organic layer was washed with brine, dried over magnesium sulfate and evaporated. The residue was recrystallized-from an aqueous methanol to give 2-(diaminomethyleneamino)-4-(6-methanesulfonylaminomethylpyridin-2-yl)thiazole (0.4 g).

reactant | Methanesulfonyl chloride | 0.58 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-(6-aminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole | 1.8 g | NCC1=CC=CC(=N1)C=1N=C(SC1)N=C(N)N | C10H12N6S
reactant | pyridine | 0.81 ml | N1=CC=CC=C1 | C5H5N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(diaminomethyleneamino)-4-(6-methanesulfonylaminomethylpyridin-2-yl)thiazole | 0.4 g | NC(N)=NC=1SC=C(N1)C1=NC(=CC=C1)CNS(=O)(=O)C | C11H14N6O2S2
